US05175274
2,6-Diamino-9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-9H-purine
2,6-Diaminopurine (Pacific Chemical Laboratories, 1.0 g, 6.4 mmoles) and 1-(2-Deoxy-2-fluoro-β-D-arabinofuranosyl)thymine (C. H. Tann et al., J. Org. Chem. 50:3647, 1985; 0.3 g, 1.2 mmoles) was suspended in 100 ml of 5 mM potassium phsophate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (160,000 I.U.) and purine nucleoside phosphorylase (290,000 I.U.) (T. A. Krenitsky et al., Biochemistry, 20:3615, 1981 and U.S. Pat. No. 4,381,444) absorbed onto 69 ml of DEAE-cellulose were added and the suspension shaken at 37° C. for 1 day. The suspension was then shaken at 50° C. for 1 day at which time 2.0 g of 2,6-diaminopurine was added. After shaking for 4 additional days at 50° C., the reaction was filtered. The filter cake was washed with water and the filtrates combined and the solvent removed under vacuum. The residue was dissolved in water and applied to a 2.5×17 cm AG1X2-hydroxide (Bio-Rad) column. After washing the column with water, the product was eluted with methanol/water (9/1). The product was further purified by chromatography on silica gel with acetonitrile/water (9/1) as the solvent followed by chromatography on silica gel with chloroform/methanol/water (80/20/2) as the solvent. After the solvent was removed under vacuum, the residue was dissolved in water and lyophilization yielded 0.2 g of title compound that analysed as a 1.4 hydrate.

reactant | 2,6-Diaminopurine | 6.4 mmoles, 1.0 g | NC1=NC(=C2NC=NC2=N1)N | C5H6N6
reactant | 1-(2-Deoxy-2-fluoro-β-D-arabinofuranosyl)thymine | 1.2 mmoles, 0.3 g | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(C)=C1 | C10H13FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium | 5 mM, 100 ml | [K] | K
product | 2,6-Diamino-9-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-9H-purine | 0.2 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H]([C@H](O)[C@H](O1)CO)F)N | C10H13FN6O3
